US06635655B1
t-Butyl-diphenyl(3-iodo-benzyloxy)silane
To a solution of 3-iodo-benzyl alcohol (4.68 g, 20 mmol) in CH2Cl2 (40 mL) is added imidazole (1.49 g, 22 mmol) and t-butyldiphenylsilyl chloride (5.74 g, 22 mmol). The resulting mixture is stirred for 1 h diluted with ether washed with water and brine, dried over MgSO4 and concentrated to give the title compound as an oil (9.41 g). MS (EI) 472 (M)+.

reactant | 3-iodo-benzyl alcohol | 20 mmol, 4.68 g | IC=1C=C(CO)C=CC1 | C7H7IO
reactant | imidazole | 22 mmol, 1.49 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldiphenylsilyl chloride | 22 mmol, 5.74 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | t-Butyl-diphenyl(3-iodo-benzyloxy)silane | 9.41 g | C(C)(C)(C)[Si](OCC1=CC(=CC=C1)I)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H25IOSi
